US08614206B2
To a microwave reaction vial was added 5-chloro-1-methyl-4-nitro-1H-pyrazole (500 mg, 3.10 mmol), tert-butyl 1,4-diazepane-1-carboxylate (744 mg, 3.72 mmol). Ethanol (15 mL) and diisopropylethylamine (3.23 mL, 18.57 mmol) were added and the mixture was irradiated with a microwave for 60 min at 130° C. The mixture was cooled, concentrated and purified via flash chromatography, ethyl acetate/heptane 0% to 100% to afford yellow oil tert-butyl 4-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane-1-carboxylate (690 mg, 69%).

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 3.10 mmol, 500 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 3.72 mmol, 744 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | diisopropylethylamine | 18.57 mmol, 3.23 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl 4-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane-1-carboxylate | 690 mg, 69% | CN1N=CC(=C1N1CCN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H23N5O4
